US06894061B2
4-Methoxy-3,5-dimethylbenzenesulfonyl chloride
The title compound was prepared from 2-methoxy-1,3-dimethylbenzene (6.81 g, 50 mmol) and chlorosulfonic acid (6.65 mL, 100 mmol), according to the procedure and in the same manner as described in Example 58, step b to yield 4-methoxy-3,5-dimethylbenzenesulfonyl chloride (7.43 g, 31.3 mmol, 63%) as a white solid;

reactant | 2-methoxy-1,3-dimethylbenzene | 50 mmol, 6.81 g | COC1=C(C=CC=C1C)C | C9H12O
reactant | chlorosulfonic acid | 100 mmol, 6.65 mL | ClS(=O)(=O)O | ClHO3S
product | 4-methoxy-3,5-dimethylbenzenesulfonyl chloride | 31.3 mmol, 7.43 g, 63% | COC1=C(C=C(C=C1C)S(=O)(=O)Cl)C | C9H11ClO3S
